US07790724B2
b) 4-Cyano-1H-imidazole-2-carboxylic acid (3-cyclohex-1-enyl-biphenyl-4-yl)-amide
The title compound was prepared by the procedure of Example 11, step (g) using 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (3-cyclohex-1-enyl-biphenyl-4-yl)-amide (as prepared in the previous step, 16 mg, 0.032 mmol). Silica gel chromatography (2-3% EtOAc/DCM) afforded the title compound (7.1 mg, 60%) as a white solid. 1H-NMR (1:1 CDCl3/CD3OD; 400 MHz): δ 8.36 (d, 1H, J=8.6 Hz), 7.88 (s, 1H), 7.59-7.62 (m, 2H), 7.54 (dd, 1H, J=8.6, 2.3 Hz), 7.42-7.46 (m, 3H), 7.34 (m, 1H), 5.92 (m, 1H), 2.29-2.37 (m, 4H), 1.79-1.94 (m, 4H). Mass spectrum (ESI, m/z): Calcd. for C23H20N4O, 369.2 (M+H), found 369.1.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (3-cyclohex-1-enyl-biphenyl-4-yl)-amide | C1(=CCCCC1)C=1C=C(C=CC1NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CC=CC=C1 | C29H34N4O2Si
solvent | EtOAc DCM | CCOC(=O)C.C(Cl)Cl
product | 4-Cyano-1H-imidazole-2-carboxylic acid (3-cyclohex-1-enyl-biphenyl-4-yl)-amide | 7.1 mg, 60% | C1(=CCCCC1)C=1C=C(C=CC1NC(=O)C=1NC=C(N1)C#N)C1=CC=CC=C1 | C23H20N4O
